US06605617B2
Ethyl 3H-Imidazo[4,5-b]pyridin-2-ylacetate
3H-Imidazo[4,5-b]pyridin-2-ylacetonitrile was suspended in EtOH, and gaseous HCl was bubbled through for 3 hours. The suspension initially seemed to dissolve, but a precipitate started forming almost immediately. The reaction mixture was cooled to 0° C. and a cold saturated NaHCO3 solution was carefully added. Solid NaHCO3 was also added to bring the pH to a value of 7.6. The aqueous phase was then extracted with EtOAc, and the organic extracts were dried (Na2SO4). After evaporation of the solvent under reduced pressure, the residue was purified by chromatography on silicagel (10% MeOH in CH2Cl2 with 1% Et3N) providing the desired product as a light brown solid. LC/MS m/z 206.1 (MH+), Rf 0.97 minutes.

reactant | 3H-Imidazo[4,5-b]pyridin-2-ylacetonitrile | N1=C(NC2=NC=CC=C21)CC#N | C8H6N4
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | EtOH | CCO | C2H6O
product | Ethyl 3H-Imidazo[4,5-b]pyridin-2-ylacetate | N1=C(NC2=NC=CC=C21)CC(=O)OCC | C10H11N3O2
